US09422331B2
To a rt solution of tert-butyl(S)-1-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (80 mg, 107 μmol) in MeOH (107 μl) was added 2 M HCl in Et2O (429 μl). The reaction was stirred at rt for 2 h then concentrated, taken up in H2O, and lyophilized to provide (S)-N-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (65.7 mg, 90%) as a white solid. MS m/z 645/647 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 107 μmol, 80 mg | BrC=1C=C2C=CC(=C(C2=CC1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(CS(=O)(=O)C)=O)C=CC=C2)OC | C34H41BrN4O8S
reactant | HCl | 2 M | Cl | ClH
solvent | MeOH | 107 μl | CO | CH4O
solvent | Et2O | 429 μl | CCOCC | C4H10O
product | (S)-N-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 65.7 mg, 90% | Cl.BrC=1C=C2C=CC(=C(C2=CC1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)NC)=O)C)C(CS(=O)(=O)C)=O)C=CC=C2)OC | InChI=1S/C29H33BrN4O6S.ClH/c1-17(31-3)28(36)32-27-18(2)34(26(35)16-41(5,38)39)24-9-7-6-8-23(24)33(29(27)37)15-22-21-12-11-20(30)14-19(21)10-13-25(22)40-4;/h6-14,17-18,27,31H,15-16H2,1-5H3,(H,32,36);1H/t17-,18-,27-;/m0./s1
